US04517202
2-Methoxybutadiene (69.9 g), 2-cyclopentenone (68.22 g) and hydroquinone (0.2 g) were heated together at 190° C. for 2 hours. The product was then distilled in vacuo, to give 3-methoxybicyclo[4,3,0]non-3-en-7-one (30 g), b.p. 74°-92° C./1.5 mmHg.

reactant | 2-Methoxybutadiene | 69.9 g | COC(=C)C=C | C5H8O
reactant | 2-cyclopentenone | 68.22 g | C1(C=CCC1)=O | C5H6O
catalyst | hydroquinone | 0.2 g | C1(O)=CC=C(O)C=C1 | C6H6O2
product | 3-methoxybicyclo[4,3,0]non-3-en-7-one | 30 g | COC=1CC2CCC(C2CC1)=O | C10H14O2
